US09359340B2
Tert-butyl 4-(4-chloro-3-fluorophenyl)-4-cyanopiperidine-1-carboxylate (1.96 g, 5.785 mmol) was dissolved in concentrated HCl (48.21 mL, 578.5 mmol), heated to reflux, and then stirred over the weekend (approximately 60 hours). The reaction mixture was cooled to room temperature, transferred to a separatory funnel, and washed with ether. The aqueous layer was concentrated on a rotary evaporator and dried on a high vacuum line. The resulting solids were dissolved in 10% NaOH (9.255 g, 23.14 mmol), dioxane (40 mL) was added, followed by a Boc2O addition (1.326 g, 6.074 mmol). The reaction mixture was stirred at room temperature overnight (16 hours). The reaction mixture was then diluted with H2O and washed with ether. The aqueous layer was acidified with solid KHSO4, and then extracted with DCM. The combined extracts were dried (Na2SO4), filtered, concentrated and dried on a high vacuum line to give 1-(tert-butoxycarbonyl)-4-(4-chloro-3-fluorophenyl)piperidine-4-carboxylic acid (0.910 g, 43.96% yield) as a foam. LC/MS (APCI−) m/z 713 [2M−H]−.

reactant | Tert-butyl 4-(4-chloro-3-fluorophenyl)-4-cyanopiperidine-1-carboxylate | 5.785 mmol, 1.96 g | ClC1=C(C=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N)F | C17H20ClFN2O2
reactant | HCl | 578.5 mmol, 48.21 mL | Cl | ClH
reactant | NaOH | 23.14 mmol, 9.255 g | [OH-].[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 1-(tert-butoxycarbonyl)-4-(4-chloro-3-fluorophenyl)piperidine-4-carboxylic acid | 0.910 g, 43.96% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC(=C(C=C1)Cl)F | C17H21ClFNO4
